US20010027196A1
2-Amino-4-(2-fluoro-phenyl)-6-[(pyridin-2-yl-methyl)-amino]-pyrimidine-5-carbonitrile
From 2-amino-4-(2-fluoro-phenyl)-6-methanesulfinyl-pyrimidine-5-carbonitrile and 2-picolylamine in DME. ES-MS m/e (%): 321 (M+H+, 100).

reactant | 2-amino-4-(2-fluoro-phenyl)-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=C(C=CC=C1)F)C#N)S(=O)C | C12H9FN4OS
reactant | 2-picolylamine | N1=C(C=CC=C1)CN | C6H8N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-fluoro-phenyl)-6-[(pyridin-2-yl-methyl)-amino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=C(C=CC=C1)F)C#N)NCC1=NC=CC=C1 | C17H13FN6
